US05811431
a) Ethyl 4-(3,4-Dichlorophenyl)-2-oxobutanoate
2-(3,4-Dichlorophenyl)ethyl bromide (5 g, 19.7 mmol) was added slowly to a suspension of magnesium turnings (0.48 g, 19.7 mmol) in ether (30 ml). After spontaneous reflux had finished the mixture was stirred under reflux for 15 minutes and allowed to cool to room temperature. The mixture was added dropwise via cannula to a stirred, cooled (-25° C.) solution of diethyl oxalate (3 g, 20.7 mmol) in THF (15 ml). The mixture was stirred at -10° C. for 30 minutes and allowed to warm to room temperature. Hydrochloric acid (2M, 15 ml) was added and the mixture was extracted with ether (2×20 ml). The combined organic fractions were washed with water, dried (Na2SO4) and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with ethyl acetate/hexane (10:90) to give the title compound (0.7 g).

reactant | 2-(3,4-Dichlorophenyl)ethyl bromide | 19.7 mmol, 5 g | ClC=1C=C(C=CC1Cl)CCBr | C8H7BrCl2
reactant | magnesium | 19.7 mmol, 0.48 g | [Mg] | Mg
reactant | diethyl oxalate | 20.7 mmol, 3 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Hydrochloric acid | 2M, 15 ml | Cl | ClH
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Ethyl 4-(3,4-Dichlorophenyl)-2-oxobutanoate | 0.7 g | ClC=1C=C(C=CC1Cl)CCC(C(=O)OCC)=O | C12H12Cl2O3
